US04141982
11 g of 4-chloro-3-nitro-benzophenone, 20 g of methylamine, 153.4 g of methanol and 27.5 g of sulpholane are warmed to 125° for 15 hours in a closed vessel. The reaction solution is evaporated to dryness, the residue is boiled thoroughly with 400 ml of 2 N hydrochloric acid for 20 minutes and the precipitate is filtered off, washed with water and dissolved in methylene chloride. After drying over sodium sulphate and evaporating, 4-methylamino-3-nitro-benzophenone with a melting point of 198°-201° is obtained.

reactant | 4-chloro-3-nitro-benzophenone | 11 g | ClC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H8ClNO3
reactant | methylamine | 20 g | CN | CH5N
reactant | sulpholane | 27.5 g | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | methanol | 153.4 g | CO | CH4O
product | 4-methylamino-3-nitro-benzophenone | CNC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C14H12N2O3
